US04251539
3-Ethyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole
This compound is prepared by the method described for Example V, from 5.1 g of 55% strength sodium hydride (0.116 mole), 25.0 g (0.116 mole) of 3-ethyl-5-(2-hydroxystyryl)-isoxazole and 15.9 g (0.116 mole) of epibromohydrin. The reaction mixture is poured into sodium chloride solution and extracted by shaking with diethyl ether. The ether solution is dried over anhydrous sodium sulfate, and concentrated. 29.2 g (93% of theory) of a colorless oil are obtained.

reactant | sodium hydride | 0.116 mole | [H-].[Na+]
reactant | 3-ethyl-5-(2-hydroxystyryl)-isoxazole | 0.116 mole, 25.0 g | C(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)O | C13H13NO2
reactant | epibromohydrin | 0.116 mole, 15.9 g | C(Br)C1CO1 | C3H5BrO
reactant | sodium chloride | [Cl-].[Na+]
product | 3-Ethyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | C(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C16H17NO3
